US07304083B2
(Step 1) 3-Ethylpentyl methanesulfonate
Triethylamine (2.4 ml, 17 mmol) was added dropwise to a solution of the 3-ethyl-1-pentanol (1.0 g, 8.6 mmol) and methanesulfonyl chloride (0.8 ml, 10 mmol) in dichloromethane (20 ml) while cooling on ice, and the mixture was stirred for 2 hours. After diluting the reaction mixture with diethyl ether, it was washed with water and brine, and the organic layer was dried over anhydrous sodium sulfate prior to distillation under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (1.38 g) as a colorless oil.

reactant | Triethylamine | 17 mmol, 2.4 ml | C(C)N(CC)CC | C6H15N
reactant | 3-ethyl-1-pentanol | 8.6 mmol, 1.0 g | C(C)C(CCO)CC | C7H16O
reactant | methanesulfonyl chloride | 10 mmol, 0.8 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-Ethylpentyl methanesulfonate | 1.38 g | CS(=O)(=O)OCCC(CC)CC | C8H18O3S
